US08389757B2
Potassium carbonate (73.3 g) was added to the well stirred solution of Ethylcyanoacetate (50 g) in Dimethylformamide (250 ml) and stirred for 15 minute at ambient temperature. Acetic anhydride (90.25 g) was added drop wise to the above well stirred solution during 2 to 3 hours at ambient temperature. Reaction mixture was stirred at ambient temperature for 15 to 20 hours. Reaction mixture was diluted with water (500 ml) and extracted with dichloromethane (3×100 ml). Combined organic layer was washed with saturated sodium carbonate solution (3×100 ml). Aqueous carbonate layer was separated and acidified with 50% HCl solution and extracted with dichloromethane (3×100 ml). Combined organic layer was washed with brine solution (100 ml), dried over sodium sulfate and evaporated to yield Ethyl 2-cyano-3-hydroxy-but-2-enoate (58 g).

reactant | Potassium carbonate | 73.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethylcyanoacetate | 50 g | C(C)OC(CC#N)=O | C5H7NO2
reactant | Acetic anhydride | 90.25 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | Dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | Ethyl 2-cyano-3-hydroxy-but-2-enoate | 58 g, Yield: 84.6% | C(#N)C(C(=O)OCC)=C(C)O | C7H9NO3
